US08541448B2
Compound 7: 3-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylsulfonamido)propane-1-sulfonic acid
Into a 50-mL round-bottom flask, was placed a solution of 3-aminopropane-1-sulfonic acid (180 mg, 1.29 mmol, 1.00 equiv) in tetrahydrofuran/water (10/10 mL) with sodium bicarbonate (430 mg, 5.12 mmol). This was followed by the addition of 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride (500 mg, 1.29 mmol, 0.99 equiv) in several batches. The resulting solution was stirred for 4 h at room temperature. The reaction progress was monitored by LCMS. The pH value of the solution was adjusted to 6 with 1M hydrogen chloride. The resulting mixture was concentrated under vacuum. The crude product (500 mg) was purified by preparative HPLC to give 26.7 mg of the title compound (4%) as a TFA salt. 1H-NMR (300 MHz, DMSO, ppm): 10.28 (s, 1H), 7.53˜7.79 (m, 6H), 6.83 (s, 1H), 4.74 (s, 2H), 4.51 (s, 1H), 3.90 (s, 1H), 3.06 (s, 3H), 2.86˜2.93 (m, 2H), 2.33˜2.44 (m, 2H), 1.58˜1.63 (m, 2H). MS (ES, m/z): 493 [M+H]+.

reactant | 3-aminopropane-1-sulfonic acid | 1.29 mmol, 180 mg, 1.00 equiv | NCCCS(=O)(=O)O | C3H9NO3S
reactant | sodium bicarbonate | 5.12 mmol, 430 mg | C([O-])(O)=O.[Na+]
reactant | 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride | 1.29 mmol, 500 mg, 0.99 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C=1C=C(C=CC1)S(=O)(=O)Cl | C16H14Cl3NO2S
reactant | hydrogen chloride | 1M | Cl | ClH
solvent | tetrahydrofuran water | 10 mL | O1CCCC1.O
product | 3-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylsulfonamido)propane-1-sulfonic acid | 26.7 mg, 4% | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C=1C=C(C=CC1)S(=O)(=O)NCCCS(=O)(=O)O | C19H22Cl2N2O5S2
